US04020077
b. Diphenylmethyl (6R,7R)-3-Acetoxymethyl-7-isocyanoceph-3-em-4-carboxylate
Pyridine (8.1ml, 100mmole) and a solution of phosgene (2.94g, 29.7mmole) in dry methylene chloride (3.5ml) at -60° were added successively to a cold (-70°) solution of diphenylmethyl (6R,7R)-3-acetoxymethyl-7-formamidoceph-3-em-4-carboxylate (9.301g, 19.96mmole) in dry methylene chloride (150ml), under a dry nitrogen atmosphere. The reaction was allowed to warm to 0° and then partitioned between ethyl acetate (300ml) and water (100ml). The organic layer was washed with water (100ml) and combined with the ethyl acetate backwash (50ml) of the combined aqueous layers, dried, and then evaporated. The residual foam was dissolved in ethyl acetate (ca 50ml) and the solution slowly added to rapidly stirred petroleum ether (b.p. 60° to 80°). The petroleum ether was decanted from the precipitated solid which was dissolved in ethyl acetate (100ml). The solution was evaporated leaving the title compound as a pale-brown foam containing 1 /5 mole-equivalent of ethyl acetate (n.m.r., microanalysis) (7.176g, 15.4mmole, 77%), λmax 250.5nm (ε7,160); νmax 2153 (C≡N-), 1805 (azetidin-2-one), 1740 (OCOCH3) and 1730 cm-1 (CO2R); τ 2.66 (10H,s, [C6H5 ]2CH), 3.02 (1H,s, [C6H5 ]2CH), 4.81 and 5.12 (2H, 2D,J5Hz, C6 -H and C7 -H), 4.85 and 5.19 (2H, ABq, J14Hz, CH2OCOCH3), 6.49 (2H, broad s, C2 -H2), 7.98 (3H,s, C3 -CH3). (Found: C, 63.2, 62.8; H,4.5; N,5.8; S,6.8. C24H20N2O5S. 1 /5CH3CO2C2H5 (466.1) requires: C, 63.7; H, 4.65; N,6.0; S,6.9%).

reactant | Pyridine | 100mmole, 8.1ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 29.7mmole, 2.94g | C(=O)(Cl)Cl | CCl2O
reactant | diphenylmethyl (6R,7R)-3-acetoxymethyl-7-formamidoceph-3-em-4-carboxylate | 19.96mmole, 9.301g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC=O)=O | C24H22N2O6S
solvent | methylene chloride | 3.5ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl (6R,7R)-3-Acetoxymethyl-7-isocyanoceph-3-em-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2[N+]#[C-])=O | C24H20N2O5S
